US04767768
2-t-Butoxycarbonylmethoxyimino-4-ethyl-5-nitro-3-hexenamide (80 mg) was treated with trifluoroacetic acid (1 ml) at ambient temperature for 2 hours. Excess trifluoroacetic acid was distilled off under reduced pressure to give a residue which was purified by preparative thin layer chromatography, eluting with a mixture of benzene, dioxane and acetic acid (14:5:1) to give 2-carboxymethoxyimino-4-ethyl-5-nitro-3-hexenamide (32 mg).

reactant | 2-t-Butoxycarbonylmethoxyimino-4-ethyl-5-nitro-3-hexenamide | 80 mg | C(C)(C)(C)OC(=O)CON=C(C(=O)N)C=C(C(C)[N+](=O)[O-])CC | C14H23N3O6
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-carboxymethoxyimino-4-ethyl-5-nitro-3-hexenamide | 32 mg | C(=O)(O)CON=C(C(=O)N)C=C(C(C)[N+](=O)[O-])CC | C10H15N3O6
